US07582638B2
1-[5-(1-Methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-3-[1-(piperidin-4-yloxy)-isoquinolin-4-yl]-urea dihydrochloride
Add HCl 4 M in dioxane (2.4 mL, 9.36 mmol) to 4-(4-{3-[5-(1-methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-ureido}-isoquinolin-1-yloxy)-piperidine-1-carboxylic acid tert-butyl ester (1.4 g, 2.34 mmol) in dichloromethane (20 mL) at room temperature and stir overnight. Evaporate the solvent under reduced pressure to give the title compound (1.3 g) as a white solid (quantitative). ES+ (m/z): 497.4 (M+H).

reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 9.36 mmol, 2.4 mL | O1CCOCC1 | C4H8O2
reactant | 4-(4-{3-[5-(1-methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-ureido}-isoquinolin-1-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 2.34 mmol, 1.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=C(C2=CC=CC=C12)NC(=O)NC=1N(N=C(C1)C1(CC1)C)C1=CC=C(C=C1)C | C34H40N6O4
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-[5-(1-Methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-yl]-3-[1-(piperidin-4-yloxy)-isoquinolin-4-yl]-urea dihydrochloride | 1.3 g | Cl.Cl.CC1(CC1)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(=O)NC1=CN=C(C2=CC=CC=C12)OC1CCNCC1 | InChI=1S/C29H32N6O2.2ClH/c1-19-7-9-20(10-8-19)35-26(17-25(34-35)29(2)13-14-29)33-28(36)32-24-18-31-27(23-6-4-3-5-22(23)24)37-21-11-15-30-16-12-21;;/h3-10,17-18,21,30H,11-16H2,1-2H3,(H2,32,33,36);2*1H
